US07368567B2
A solution of 1-(5-benzenesulfonyl-2-(S)-oxiranylmethoxy-phenyl)-ethanone (2.04 g; 0.059 mol) and meta-chloroperoxybenzoic acid (4.13 g; 0.018 mol, max. 77%) in chloroform (20 mL) was heated under reflux for 18 hours. After cooling to ambient temperature the mixture was diluted with chloroform, filtered, washed with water and saturated sodium bicarbonate, dried (Na2SO4) and concentrated in vacuo. This crude residue (0.85 g; 0.0024 mol) dissolved in methanol (5 mL) was added to a solution of 10% aqueous potassium hydroxide (4 mL) at 0° C. The mixture was stirred for 30 minutes at room temperature. Solvent was removed in vacuo, and the residue was dissolve in ethyl acetate, washed with 10% aqueous hydrochloric acid followed by saturated brine, dried (Na2SO4) and concentrated in vacuo to give (7-benzenesulfonyl-2,3-dihydro-benzo[1,4]dioxin-2(R)-yl)-methanol as an oil (1.44 g; 77%): MS (M+H)+ 307.

reactant | 1-(5-benzenesulfonyl-2-(S)-oxiranylmethoxy-phenyl)-ethanone | 0.059 mol, 2.04 g | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC(=C(C1)C(C)=O)OC[C@H]1OC1 | C17H16O5S
reactant | meta-chloroperoxybenzoic acid | 0.018 mol, 4.13 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | potassium hydroxide | 4 mL | [OH-].[K+]
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 5 mL | CO | CH4O
product | (7-benzenesulfonyl-2,3-dihydro-benzo[1,4]dioxin-2(R)-yl)-methanol | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC2=C(O[C@@H](CO2)CO)C1 | C15H14O5S
